US08536203B2
A suspension of vanillin (1.0 g, 6.57 mmol), 2-(6-(trifluoromethyl)pyridin-3-yl)acetonitrile (1.222 g, 6.57 mmol) and piperidine (0.71 mL, 7.23 mmol) in absolute ethanol (10 mL) was stirred at reflux for forty-eight hours and then allowed to cool to room temperature. The resulting precipitate was filtered off, washed with water and dried. Recrystallisation from isopropanol afforded (Z)-3-(4-hydroxy-3-methoxyphenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)acrylonitrile as white crystals, 0.904 g (43%).

reactant | vanillin | 6.57 mmol, 1.0 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | 2-(6-(trifluoromethyl)pyridin-3-yl)acetonitrile | 6.57 mmol, 1.222 g | FC(C1=CC=C(C=N1)CC#N)(F)F | C8H5F3N2
reactant | piperidine | 7.23 mmol, 0.71 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (Z)-3-(4-hydroxy-3-methoxyphenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)acrylonitrile | OC1=C(C=C(C=C1)\C=C(/C#N)\C=1C=NC(=CC1)C(F)(F)F)OC | C16H11F3N2O2
